US08071592B2
(c) 2,3-Dihydro[1,4]dioxino[2,3-h]quinoline
A mixture of concentrated sulphuric acid (30 ml), boric acid (2.29 g; 47.20 mmol) iron (II) sulphate heptahydrate (1.09 g; 3.93 mmol) and 3-nitrobenzene sulphonic acid sodium salt (9.5 g; 42.36 mmol) was cooled to 0° C. before addition of glycerol (11 ml; 151.31 mmol) and 2,3-dihydro-1,4-benzodioxin-5-amine (4.6 g; 30.26 mmol) followed by water (30 ml). The mixture was then heated to 140° C. and stirred for 4 hours. The reaction was then cooled to rt before being poured onto ice water (150 ml) and filtered. The resulting mixture was then basified to pH 8 with 6N NaOH and stirred with EtOAc for 30 mins. The organics were separated and the aqueous layer extracted with EtOAc×3. The combined organic layers were filtered through kieselguhr, washed with brine and dried with MgSO4. The solvents were removed to afford the desired product (3.65 g; 65%).

reactant | sulphuric acid | 30 ml | S(O)(O)(=O)=O | H2O4S
reactant | boric acid | 47.20 mmol, 2.29 g | B(O)(O)O | BH3O3
reactant | 3-nitrobenzene sulphonic acid sodium salt | 42.36 mmol, 9.5 g | [Na+].[N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-]
reactant | glycerol | 151.31 mmol, 11 ml | OCC(O)CO | C3H8O3
reactant | 2,3-dihydro-1,4-benzodioxin-5-amine | 30.26 mmol, 4.6 g | O1CCOC2=C1C=CC=C2N | C8H9NO2
catalyst | iron (II) sulphate heptahydrate | 3.93 mmol, 1.09 g | O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Fe+2]
solvent | water | 30 ml | O | H2O
product | 2,3-Dihydro[1,4]dioxino[2,3-h]quinoline | 3.65 g, 65% | O1CCOC=2C=CC=3C=CC=NC3C21 | C11H9NO2
